US06020329
(RS)-1-(Propan-2-yl)oxycarbonyloxyethyl (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate
A solution of (RS)-1-iodo-1-(propan-2-yl)oxycarbonyloxyethane (516mg) in 1-methyl-2-pyrrolidinone (2ml) was added dropwise over 45 mins to an ice-cold mixture of sodium (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S) -tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate (237mg) and finely powdered potassium carbonate (276mg) in 1-methyl-2-pyrrolidinone (5ml). The mixture was stirred for an additional 15 mins, diluted with ethyl acetate, washed with water, brine, dried (magnesium sulphate), concentrated and flash chromatographed on silica gel eluting with 50, 60, 70, 80% ethyl acetate in hexane to give the title compound as a foam (58mg); vmax (CHCl3) 2960, 1787, 1760, 1682, 1633, 1519 and 1377cm-1 ; δ(CDCl3, 250MHz) 1.20-2.50 (13H, m), 3.35-3.80 (2H, m), 3.80-4.20 (2H, m), 4.22 (3H, s), 4.83-5.10 (2H, m), 5.85-6.00 (1H, m), 6.85-7.08 (1H, m), 7.27 (1H, s) and 7.76 (1H, br, m). [Mass spectrum: +ve ion (3-nitrobenzyl alcohol, sodium acetate) MNa+ (606)].

reactant | (RS)-1-iodo-1-(propan-2-yl)oxycarbonyloxyethane | 516mg | IC(C)OC(=O)OC(C)C | C6H11IO3
reactant | sodium (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S) -tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 237mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)[O-])C1=O)=N/OC.[Na+]
reactant | potassium carbonate | 276mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl-2-pyrrolidinone | 2ml | CN1C(CCC1)=O | C5H9NO
solvent | 1-methyl-2-pyrrolidinone | 5ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (RS)-1-(Propan-2-yl)oxycarbonyloxyethyl (6R,7R)-7-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-[(S)-tetrahydrofuran-2-yl]ceph-3-em-4-carboxylate | 58mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)[C@H]2OCCC2)C(=O)OC(C)OC(=O)OC(C)C)C1=O)=N/OC | C23H29N5O9S2
